US04797469
Met:
9.83 g of the peptide obtained in Examle XI, 8) are dissolved in 40 ml of anhydrous DMSO. 60 ml of DMF are then added. The solution is cooled down to -10° C. and the pH is brought to 6.6 by addition of DIPEA. This solution is thereafter poured in 15 mins. in the previous tripeptide azide solution, the temperature being kept at between -15° and -20° C. At the end of the addition, the pH is brought to 7 by DIPEA and the solution is kept for 24 hours at between -15° and -20° C. After this period of time, the rest of the azide solution (15 ml) is added and the pH is returned to 7 by DIPEA and the medium is kept for 24 hours at between -15° and -20° C. This medium is then poured over 500 ml of cooled ethyl acetate and strongly stirred. A white solid substance forms slowly. It is drained and washed 3 times with 150 ml of ethyl acetate, and then with ether (2×150 ml), and dried in vacuo until a constant weight is reached. 9.65 g (80.4%) of a white powder are thus obtained.

reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | azide | 15 ml | [N-]=[N+]=[N-]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | DMSO | 40 ml | CS(=O)C | C2H6OS
product | Met | 9.65 g, 80.4% | N[C@@H](CCSC)C(=O)O | C5H11NO2S
